US07829559B2
LiOH.H2O (120 mg, 2.85 mmol), dissolved in 1 ml of water, is added to a solution of ethyl 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetate (808 mg, 2.85 mmol) in methanol (20 mL) and is stirred at room temperature for 1 hour following the reaction by means of TLC. The methanol is evaporated under reduced pressure, the residue is suspended in water and acidified with diluted HCl forming a pulp that is extracted with ethyl acetate. The organic phase is washed with water, dried and evaporated at reduced pressure, giving 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetic acid (410 mg, 1.59 mmol, 53%, solid).

reactant | LiOH.H2O | 2.85 mmol, 120 mg | O[Li].O
reactant | ethyl 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetate | 2.85 mmol, 808 mg | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CC(=O)OCC | C17H20N2O2
solvent | water | 1 ml | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | 2-(4,5,6,7-tetrahydro-1-phenyl-1H-indazol-4-yl)acetic acid | 1.59 mmol, 410 mg, 53% | C1(=CC=CC=C1)N1N=CC=2C(CCCC12)CC(=O)O | C15H16N2O2
